US07507740B2
(i) Production of methyl 3-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]benzoate
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (300 mg) in N,N-dimethylformamide (2.0 mL) was added cesium carbonate (955 mg) under ice-cooling, and the mixture was stirred while warming to room temperature for 15 min. To the reaction mixture was added methyl 3-(bromomethyl)benzoate (671 mg), and the mixture was stirred at room temperature for 4 hrs. The reaction mixture was diluted with water (40 mL), and extracted with a mixed solvent (40 mL×3) of ethyl acetate/tetrahydrofuran (1/1). The organic layer washed with saturated brine (120 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=80/20→10/90). The object fraction was concentrated under reduced pressure. Chloroform/diisopropyl ether (4/1) was added to the residue, and the resultant precipitate was collected by filtration, washed and dried under reduced pressure to give the title compound (319 mg) as a pale-brown powder.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 300 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 955 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 3-(bromomethyl)benzoate | 671 mg | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | methyl 3-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]benzoate | 319 mg | ClC=1C2=C(N=CN1)C=CN2CC=2C=C(C(=O)OC)C=CC2 | C15H12ClN3O2
